US09340547B2
a) N-(3,5-Difluorophenyl)-1H-imidazole-2-carboxamide
To a solution of 1H-imidazole-2-carboxylic acid (2.50 g, 22.3 mmol) in DMF (30 mL) were added 3,5-difluoroaniline (2.23 mL, 22.3 mmol), EDCHCl (6.41 g, 33.46 mmol) and HOBt (4.52 g, 33.46 mmol). The reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuum and the crude was dissolved in dichloromethane. The solution was washed with a diluted aqueous solution of potassium carbonate, dried over sodium sulphate, filtered and concentrated. 2.75 g (55% yield) of the title compound were obtained as a solid.

reactant | 1H-imidazole-2-carboxylic acid | 22.3 mmol, 2.50 g | N1C(=NC=C1)C(=O)O | C4H4N2O2
reactant | 3,5-difluoroaniline | 22.3 mmol, 2.23 mL | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | HOBt | 33.46 mmol, 4.52 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-(3,5-Difluorophenyl)-1H-imidazole-2-carboxamide | 2.75 g, 55% yield | FC=1C=C(C=C(C1)F)NC(=O)C=1NC=CN1 | C10H7F2N3O
